US08957105B2
Synthesis of 3-(1-(4-carbamoyl-2-methylphenyl)-5-(4-(2-oxooxazolidin-3-yl)phenyl)-1H-pyrrol-2-yl)propanoic acid
To a solution of ethyl 3-(1-(4-carbamoyl-2-methylphenyl)-5-(4-(2-oxooxazolidin-3-yl)phenyl)-1H-pyrrol-2-yl)propanoate (67 mg, 0.15 mmol) in THF/H2O (1 mL, v/v=1/1) was added lithium hydroxide monohydrate (7 mg, 0.15 mmol). The mixture was stirred at room temperature for 6 h. THF was evaporated in vacuo. The residue was acidified to pH=5 with 5% hydrochloric acid, concentrated and purified by prep-TLC to afford the titled compound as a brown solid (24 mg, yield 39%).

reactant | ethyl 3-(1-(4-carbamoyl-2-methylphenyl)-5-(4-(2-oxooxazolidin-3-yl)phenyl)-1H-pyrrol-2-yl)propanoate | 0.15 mmol, 67 mg | C(N)(=O)C1=CC(=C(C=C1)N1C(=CC=C1C1=CC=C(C=C1)N1C(OCC1)=O)CCC(=O)OCC)C | C26H27N3O5
reactant | lithium hydroxide monohydrate | 0.15 mmol, 7 mg | O.[OH-].[Li+]
solvent | THF H2O | 1 mL | C1CCOC1.O
product | 3-(1-(4-carbamoyl-2-methylphenyl)-5-(4-(2-oxooxazolidin-3-yl)phenyl)-1H-pyrrol-2-yl)propanoic acid | 24 mg, yield 39% | C(N)(=O)C1=CC(=C(C=C1)N1C(=CC=C1C1=CC=C(C=C1)N1C(OCC1)=O)CCC(=O)O)C | C24H23N3O5
